US07585885B2
4-(S)-Fluoro-2-(R)-hydroxymethylpyrrolidine-1-carboxylic acid tert-butyl ester
Add lithium borohydride (0.43 g, 19.6 mmol) to an ice cold solution of 4-(S)-fluoropyrrolidine-N1,2-(R)-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (3.9 g, 13.08 mmol) in THF (50 mL). Warm to room temperature over 18 h. Cool in ice bath. Slowly add acetic acid (3 mL) and water and extract with ethyl acetate. Wash extract with water, saturated aqueous sodium bicarbonate solution, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with hexanes and ethyl acetate) to give the title compound as a thick oil (2.90 g, 100%).

reactant | lithium borohydride | 19.6 mmol, 0.43 g | [BH4-].[Li+]
reactant | 4-(S)-fluoropyrrolidine-N1,2-(R)-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 13.08 mmol, 3.9 g | COC(=O)[C@@H]1N(C[C@H](C1)F)C(=O)OC(C)(C)C | C11H18FNO4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(S)-Fluoro-2-(R)-hydroxymethylpyrrolidine-1-carboxylic acid tert-butyl ester | 2.90 g, 100% | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)F)CO | C10H18FNO3
